US07005432B2
5-(5-Difluoromethyl-thiophen-3-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=307.2 (M+H+), was prepared from 2-(5-difluoromethyl-thiophen-3-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(5-difluoromethyl-thiophen-3-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C1=CC(=CS1)B1OC(C(O1)(C)C)(C)C)F | C11H15BF2O2S
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(5-Difluoromethyl-thiophen-3-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC(C1=CC(=CS1)C=1C=C(N=NC1)CN1C(=NC=C1)C)F | InChI=1S/C14H12F2N4S.ClH/c1-9-17-2-3-20(9)7-12-4-10(6-18-19-12)11-5-13(14(15)16)21-8-11;/h2-6,8,14H,7H2,1H3;1H
